US07943658B2
(R)-5-Chloro-N-(6-cyano-2,2-dimethyl-2,3-dihydro-1H-inden-1-yl)-1-(2-(dimethylamino)ethyl)-1H-indole-2-carboxamide
To a solution of N-(6-cyano-2,2-dimethyl-2,3-dihydro-1H-inden-1-yl)-5-chloro-1H-indole-2-carboxamide (30 mg, 0.083 mmol) in DMF (0.3 mL) at rt was added NaH (60% dispersion, 17 mg, 0.42 mmol). After stirring for 15 min, 2-chloro-N,N-dimethylethanamine hydrochloride (36 mg, 0.25 mmol) was added and the resulting mixture was heated at 65° C. for 4 h. After cooling to rt, the reaction mixture was subjected to purification by reverse-phase HPLC using MeOH/water mixtures with 0.1% TFA as the diluent. Fractions containing the major product were collected, combined and concentrated in vacuo to remove the MeOH. The resulting aqueous solution containing the product was made neutral by addition of sat. aq. NaHCO3 and the product was extracted with EtOAc (3×10 mL). The combined extracts were washed with brine, dried over anhyd Na2SO4, filtered and concentrated in vacuo to afford an oil. The oil was redissolved in DCM/Et2O (50/50, 2 mL) and reconcentrated to yield an oil which solidified under vacuum to afford the title compound in the form of a white solid (16 mg). HPLC Ret. time: 2.84 min. LCMS MH+ (m/z) 435.30. 1H NMR: (MeOH-d4, 400 MHz): 7.65 (d, 1H), 7.62-7.60 (m, 2H), 7.51 (d, 1H), 7.42 (d, 1H), 7.30 (dd, 1H), 7.12 (s, 1H), 5.45 (s, 1H), 4.80 (t, 2 H), 3.12 (br m, 2H), 2.93 (m, 2H), 2.59 (s, 6H), 1.32 (s, 3H), 1.07 (s, 3H).

reactant | N-(6-cyano-2,2-dimethyl-2,3-dihydro-1H-inden-1-yl)-5-chloro-1H-indole-2-carboxamide | 0.083 mmol, 30 mg | C(#N)C1=CC=C2CC(C(C2=C1)NC(=O)C=1NC2=CC=C(C=C2C1)Cl)(C)C | C21H18ClN3O
reactant | NaH | 0.42 mmol, 17 mg | [H-].[Na+]
reactant | 2-chloro-N,N-dimethylethanamine hydrochloride | 0.25 mmol, 36 mg | Cl.ClCCN(C)C
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
solvent | DCM Et2O | 2 mL | C(Cl)Cl.CCOCC
product | (R)-5-Chloro-N-(6-cyano-2,2-dimethyl-2,3-dihydro-1H-inden-1-yl)-1-(2-(dimethylamino)ethyl)-1H-indole-2-carboxamide | ClC=1C=C2C=C(N(C2=CC1)CCN(C)C)C(=O)N[C@@H]1C(CC2=CC=C(C=C12)C#N)(C)C | C25H27ClN4O
